US06872857B1
Preparation of 2-methyl-1,4-benzoquinone
A mixture of m-cresol (5 mmol) and Ti-superoxide catalyst (125 mg, 20% w/w) in acetic acid (5 ml) was heated with stirring at 50-60° C. under inert atmosphere. To this reaction mixture was added aq. 30% H2O2 (20 mmol) drop wise over 15 min. and heated for 1 h. The catalyst was recovered by simple filtration and 2-methyl-1,4-benzoquinone formed (99%) was separated by chromatographic purification.

reactant | m-cresol | 5 mmol | C1=C(C=CC=C1O)C | C7H8O
reactant | H2O2 | 20 mmol | OO | H2O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-methyl-1,4-benzoquinone | CC=1C(C=CC(C1)=O)=O | C7H6O2
